US08431604B2
1.0 g of the crude mixture with N-(5-phenyl-1,3,4-thiadiazole-2-yl)-1H-imidazole-1-carbothioamide was combined with 0.536 g (6.96 mmol) ammonium acetate in 4 ml ethanol. The reaction mixture was heated in the microwave (at 100 Watt) for 30 minutes at 90° C. After completion of the reaction, the solvent was distilled off under vacuum, and water was added to the residue formed. After extraction with CH2Cl2 and drying of the organic phase with magnesium sulfate, the product crystallized out of the organic solvent and, after filtration, was washed with diethylether. 0.52 g of the N-(5-phenyl-1,3,4-thiadiazole-2-yl)-thiourea was obtained.

reactant | N-(5-phenyl-1,3,4-thiadiazole-2-yl)-1H-imidazole-1-carbothioamide | C1(=CC=CC=C1)C1=NN=C(S1)NC(=S)N1C=NC=C1 | C12H9N5S2
reactant | ammonium acetate | 6.96 mmol, 0.536 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-(5-phenyl-1,3,4-thiadiazole-2-yl)-thiourea | 0.52 g | C1(=CC=CC=C1)C1=NN=C(S1)NC(=S)N | C9H8N4S2
